US08426430B2
7-Fluoro-6-nitroquinazolin-4-ol (518 mg, 2 mmol) was dissolved into thionyl chloride (3 mL) containing 2 drops of DMF. The solution was refluxed for 3 h. The solvent was removed under reduced pressure to afford 4-chloro-7-fluoro-6-nitroquinazoline, which was used directly in the next step without purification.

reactant | 7-Fluoro-6-nitroquinazolin-4-ol | 2 mmol, 518 mg | FC1=C(C=C2C(=NC=NC2=C1)O)[N+](=O)[O-] | C8H4FN3O3
reactant | thionyl chloride | 3 mL | S(=O)(Cl)Cl | Cl2OS
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
product | 4-chloro-7-fluoro-6-nitroquinazoline | ClC1=NC=NC2=CC(=C(C=C12)[N+](=O)[O-])F | C8H3ClFN3O2
